US07183304B2
To a suspension of the title B compound, (R)-1-(4-benzyloxy-benzenesulfonyl)-2,3-dihydro-1H-indole-2-carboxylic acid methyl ester (3.00 g, 7.1 mmol) in ethanol (200 mL) under nitrogen is added 10% palladium on carbon (0.3 g). The resulting mixture is hydrogenated at 46 psi for 18.5 hours at room temperature. The mixture is filtered through celite by vacuum filtration. The filtrate is concentrated in vacuo to give 1.31 g of (R)-1-(4-hydroxy-benzene-sulfonyl)-2,3-dihydro-1H-indole-2-carboxylic acid methyl ester which is used without further purification: [M+1]+=334.22, [M−1]−=332.16.

reactant | (R)-1-(4-benzyloxy-benzenesulfonyl)-2,3-dihydro-1H-indole-2-carboxylic acid methyl ester | 7.1 mmol, 3.00 g | COC(=O)[C@@H]1N(C2=CC=CC=C2C1)S(=O)(=O)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C23H21NO5S
solvent | ethanol | 200 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.3 g | [Pd] | Pd
product | (R)-1-(4-hydroxy-benzene-sulfonyl)-2,3-dihydro-1H-indole-2-carboxylic acid methyl ester | 1.31 g | COC(=O)[C@@H]1N(C2=CC=CC=C2C1)S(=O)(=O)C1=CC=C(C=C1)O | C16H15NO5S
